US04921868
Methyl ether of 1-allyloxycarbonyl-1,2,5,6-tetrahydropyridin-3-carboxaldehyde oxime
To a solution of 1,2,5,6-tetrahydropyridin-3-carboxaldehyde-O-methyloxime in 40 cm3 of benzene, 1.5 cm3 of triethylamine and 1.17 cm3 of 2-propenyl chloroformate are added. The mixture is agitated for 30 minutes at ambient temperature, then treated with 20 cm3 of 5% hydrochloric acid, then twice with 20 cm3 of water. The solvent is evaporated off, then the residue is distilled at 200° C. under 0.08 mbar. 2.25 g of the expected product is obtained.

reactant | 1,2,5,6-tetrahydropyridin-3-carboxaldehyde-O-methyloxime | CON=CC=1CNCCC1 | C7H12N2O
reactant | hydrochloric acid | 20 cm3 | Cl | ClH
reactant | water | 20 cm3 | O | H2O
reactant | 2-propenyl chloroformate | 1.17 cm3 | ClC(=O)OCC=C | C4H5ClO2
solvent | benzene | 40 cm3 | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 1.5 cm3 | C(C)N(CC)CC | C6H15N
product | Methyl ether of 1-allyloxycarbonyl-1,2,5,6-tetrahydropyridin-3-carboxaldehyde oxime | 2.25 g | CO/N=C/C1=CCCN(C1)C(=O)OCC=C | C11H16N2O3
